US05075330
A suspension of 2-[(2,3-dimethylphenyl) amino]benzoic acid (mefenamic acid) 35 g, 145 mmol) in methanol (600 ml) and concentrated sulfuric acid (15 ml) is heated at reflux for two days. The reaction mixture is cooled in an ice bath. The resulting solid is collected by filtration and recrystallized from methanol to give 2-[(2,3-dimethylphenyl)amino]benzoic acid, methyl ester (32.0 g, 86%); mp 98°-100° C.

reactant | 2-[(2,3-dimethylphenyl) amino]benzoic acid | 145 mmol, 35 g | CC1=C(C=CC=C1C)NC1=C(C(=O)O)C=CC=C1 | C15H15NO2
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 600 ml | CO | CH4O
product | 2-[(2,3-dimethylphenyl)amino]benzoic acid, methyl ester | 32.0 g, 86% | CC1=C(C=CC=C1C)NC1=C(C(=O)OC)C=CC=C1 | C16H17NO2
